US07947851B2
[4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(cyclohexylamino)carbonyl]amino}methyl)phenoxy]acetic acid
To a suspension of methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]-phenoxy}acetate hydrochloride (500 mg, 1.05 mol) in anhydrous DCM (10 ml) was added DIEA (0.2 mL, 1.18 mmol) and cyclohexyl isocyanate (Aldrich, 0.28 mL, 2.20 mmol). The reaction mixture was stirred at rt for 15 hrs. Then PS-trisamine resin (670 mg, Novabiochem, 3.5 mmol/g) was added and the resulting mixture was stirred at rt for 5 additional hrs. The resin was removed by filtration, washed with DCM and the solvent was evaporated off under reduced pressure. Purification by flash chromatography on silicagel (c-Hex/EtOAc (2/1)) gave 500 mg (84%) of the title compound as a pale yellow oil. HPLC, Rt: 5.9 min (purity: 100%). LC/MS, M+(ESI): 567.4. 1H NMR (DMSO-d6) δ: 7.48 (d, J=8.3 Hz, 2H), 7.44 (d, J=8.3 Hz, 2H), 7.24 (d, J=8.3 Hz, 2H), 7.20 (d, J=8.3 Hz, 2H), 7.11 (d, J=8.6 Hz, 2H), 6.88 (d, J=8.6 Hz, 2H), 6.18 (d, J=7.6 Hz, 1H), 4.76 (s, 2H), 4.37 (s, 2H), 4.31 (s, 2H), 3.68 (s, 3H), 3.48 (m, 1H), 2.60 (t, J=7.5 Hz, 2H), 1.75-1.01 (m, 14H), 0.89 (t, J=7.4 Hz, 3H).

reactant | methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]-phenoxy}acetate hydrochloride | 1.05 mol, 500 mg | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNCC2=CC=C(OCC(=O)OC)C=C2)C=C1
reactant | DIEA | 1.18 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclohexyl isocyanate | 2.20 mmol, 0.28 mL | C1(CCCCC1)N=C=O | C7H11NO
reactant | trisamine | 670 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(cyclohexylamino)carbonyl]amino}methyl)phenoxy]acetic acid | 500 mg, 84% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)NC2CCCCC2)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C35H40N2O4
